US05102897
A 12.5% solution of phosgene in toluene (5.5 mL, 6.2 mmol) is added dropwise to a -78° C. solution of 3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]propanoic acid hydrazide (1.0 g, 2.94 mmol) in tetrahydrofuran (100 mL). The reaction mixture is stirred for 10 minutes then poured into a separatory funnel containing ethyl acetate and aqueous sodium bicarbonate. The organic phase is washed three times with water and once with brine. Drying the organic phase over magnesium sulfate and evaporation gives a heavy oil which is chromatographed on a 100 g column of silica with methanol/chloroform (3/97). After coevaporation with dichloromethane the product solidifies affording 0.64 g (63%) of 5-[2-[[3,5-bis-(1,1-dimethylethyl)-4-hydroxyphenyl]thio]ethyl]-1,3,4-oxadiazol-2(3H)-one, mp 86.0°-87.5° C.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 6.2 mmol, 5.5 mL | C1(=CC=CC=C1)C | C7H8
reactant | 3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]propanoic acid hydrazide | 2.94 mmol, 1.0 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SCCC(=O)NN | C17H28N2O2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-[2-[[3,5-bis-(1,1-dimethylethyl)-4-hydroxyphenyl]thio]ethyl]-1,3,4-oxadiazol-2(3H)-one | 0.64 g, 63% | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SCCC1=NNC(O1)=O | C18H26N2O3S
